US08703768B2
Step 1: 5-Bromo-2-cyclobutyl-pyrimidine-4-carboxylic acid
The product was obtained starting from cyclobutanecarboxamidine (200 mg, 1.5 mmol) and mucobromic acid (180 mg, 0.7 mmol) according to the method described in intermediate A-4, step 1 as light brown solid (38 mg, 21%).

reactant | cyclobutanecarboxamidine | 1.5 mmol, 200 mg | C1(CCC1)C(=N)N | C5H10N2
reactant | mucobromic acid | 0.7 mmol, 180 mg | C(/C(/Br)=C(/Br)\C=O)(=O)O | C4H2Br2O3
product | 5-Bromo-2-cyclobutyl-pyrimidine-4-carboxylic acid | BrC=1C(=NC(=NC1)C1CCC1)C(=O)O | C9H9BrN2O2
